US04324895
1.30 gr. (0.01 mol) of 5-fluorouracil and 5.96 gr. (0.01 mol) of bis(tri-n-butylstannyl)oxide were heated under reflux in 100 ml of toluene, while water formed was continuously distilled off during the heating. After heating for ca. 20 hrs., toluene was removed by distillation to obtain bis(tri-n-butylstannyl)-5-fluorouracil.

reactant | 5-fluorouracil | 0.01 mol | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | bis(tri-n-butylstannyl)oxide | 0.01 mol | C(CCC)[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | bis(tri-n-butylstannyl)-5-fluorouracil | C(CCC)[Sn](CCCC)(CCCC)C1=C(C(N(C(N1)=O)[Sn](CCCC)(CCCC)CCCC)=O)F | InChI=1S/C4H2FN2O2.6C4H9.2Sn/c5-2-1-6-4(9)7-3(2)8;6*1-3-4-2;;/h(H2,6,7,8,9);6*1,3-4H2,2H3;;/q;;;;;;;;+1/p-1
